Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I need help with my OCD"

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Per admitting physician: 

"Mr. ___ is a ___ male with pphx of depression, PTSD 
previous suicide attempts, multiple psych hospitalizations in 
past 3mo (discharged yesterday from ___ hospital ___ 
who was BIBA after attempting to hang himself from a pull-up 
bar, which was aborted when his mother caught him. Per ED 
assessment patient is noted with slight ligature mark across 
neck.

He was discharged from ___ yesterday. He noted the 
supervisor stated he had to leave despite him not wanting to 
leave. He noted that when he got he tried to spend sometime 
outside, listening to music.  He went out with his mom to ran 
errands and then he went home and became overwhelmed with the
triggers (described below), which led to him wanting to hang 
himself and attempting to hang himself by using a dog leash and 
a pull up bar. He notes significant hopelessness and 
helplessness, stating there are no options out there for him. He 
states the only thing that is keeping him here is his family, 
"so they don't have to deal with me dying." Notably he has been 
hospitalized 5x in the last 3 months. He denies any specific 
stressor that occurred 3 mo ago, but he notes ongoing stressors 
discussed below. 
.
He describes that his house has a lot of trauma triggers from 
his childhood, and he feels he is constantly reminded of his 
trauma when at his house. Discusses that his dad had sexually 
molesting his sister. Sister has attempted to kill herself 
previous times and was constantly acting out when he was growing 
up. He describes being overwhelmed by these traumatic events and 
OCD. He notes experiencing flashbacks of trauma and 
hypervigilance to
loud noises. He also discusses obsessions of personal hygiene, 
used to wash his hands repeatedly, which states has improved 
some but he continues to suffer from these obsessive thoughts. 
He describes not being able to sit on the couch because he feels 
he will get sick. He describes spending up to 18 hrs per day 
thinking about personal hygiene. He notes that sometimes he is
able to shut off the obsessive thoughts by ignoring the 
thoughts. He notes significant anxiety and worrying, no panic 
attacks. He notes he feels like the hospitalizations have not 
given him the appropriate coping skills for his "brain 
disorder". He notes when he has anxiety he will go for walks, 
listen to music, and/or punch walls. He notes having some DBT 
skills in previous hospitalizations, but he stated didn't really 
stick with him.  
. 
He voices the his mood is "not good depressed". Denies problems 
with sleeping, concentration, reduced appetite today. He likes 
listening music, movies, and walking but note he hasn't enjoyed 
these things lately. He continues to endorse suicidal ideation. 
He reports feeling safe in the hospital. Denies HI, AVH, and 
delusional thought content.
.
Stressors: recent discharge from psych hospitalization and being 
reminded of childhood trauma when returning home. 
.
Collateral Contacts:
Called ___ (mother): ___. 
He has been sent from hospital to another. He is completely 
hopeless. She notes he hadn't left the house for ___ yr prior to 
___ hospitalization, washing hands 200 x per day (hands were 
almost down to bone), washing with chlorox wipes. She feels he 
cannot function daily bc of the OCD. She discusses trying to 
take him to get outpatient treatment in the past but has never 
made itto the appointment bc of his agoraphobia. She is very 
worried 
that she is going to find him dead. She notes he would take 
walks for hours at a time to stay away from the house and she 
notes she is trying to move from this house in order to save 
him. She took the rope off of his neck today, and he was begging 
with her to let him go. She feels like she has to observe him 
constantly or he will hurt himself. She feels like he wants help 
for OCD and PTSD. She describes significant financial stress 
after his father left in ___. She voices for preference for Deac 
4 psych hospitalization.
.
Psychiatric ROS:
Depression - as per HPI
Psychosis - denies symptoms including delusions (persecutory,
grandiose, thought broadcasting/insertion/withdrawal) or
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- denies symptoms including elevated mood or irritability,
marked increases in goal-directed behavior, racing thoughts, a
decreased need for sleep, or social/economic indiscretion
Anxiety - as per HPI
.
Medical ROS:
+Headache
all negative on a 10-point ROS
Negative for: fever, eye pain, hearing deficit, chest pain,
difficulty breathing, abdominal pain, constipation, diarrhea,
musculoskeletal pain."
.
In the ED, pt continued to endorse passive SI but was calm and 
cooperative with staff, was placed on CO.
.
On interview today, pt confirmed above. Pt noted that he has 
been experiencing obsessive thoughts and behaviors around 
cleanliness since age ___, when he began using Clorox wipes to 
repeatedly wipe down both objects in the home as well as his own 
body. At age ___ pt began significantly restricting his food 
intake to vegetables/fruit/fish and eggs, and his body weight 
hit a low of 127 lbs (currently 150 per pt). This pattern 
persisted until ___, at which time pt's father was 
reportedly admitted to ___ for depression sx. Though 
restricted eating sx have waned since that time, obsessions and 
compulsions related to cleanliness have grown more difficult for 
pt to manage.   
. 
Pt endorses having experienced passive SI with intent and plan 
as early as age ___ ("I tried placing a belt around my neck but 
didn't follow through). First SA was ___, hanging attempt. 
Second SA yesterday ___ as noted above. Pt notes that this 
attempt was in the setting of "hopelessness about not getting 
treatment for the OCD" rather than from depression. 
. 
Pt has been admitted to ___ psychiatry at ___ 
___ and now BI, ~6 times in last 3 months. He reports 
that the focus of the treatment has been on medication 
management, though his priority now is having access to therapy 
resources specific to OCD and not returning to his childhood 
home which is "full of trauma triggers."
. 
Pt volunteers he is experiencing vivid dream s/e from Prozac, 
and attributes part of his recent weight gain to starting the 
Prozac as well.  
. 
Denies current SI but acknowledges yesterday experiencing active 
SI w/intent and plan to complete hanging. Denies current or past 
HI/AH/CAH/VH. "

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
.
"Diagnoses: OCD, Depression, PTSD - started around the age of ___ 
Hospitalizations: Hospitalized several times in last ___x, ___, and ___. Hospitalizations for OCD,
depression, and SI. No psych hospitalizations prior to 3 mo ago
Current treaters and treatment: No recent psychiatrist or
therapist, he has been referred but he always ends up back in
hospital
Medication and ECT trials: previously trazodone, abilify and
strattera (did not help)
Self-injury: He describes having rehearsed killing himself with
rope several times 2 or 3 suicide attempts: ___ - tried
hanging himself with sweatshirt, notes mom pushed him down did
not require med stabilization. Describes making scratches on his
arm with knife in ___.
Harm to others: Describes having grabbed his father by the 
throat
due to trauma
Trauma hx:  dad would yell at them often, physically held pt 
down
once in lifetime, o/w no physical or sexual
harm towards pt, notes sister was sexual harmed by father, 
father
said he would kill himself and sister often would threaten to
kill himself"
 -Access to weapons: denies
.
.
 PAST MEDICAL HISTORY:
 **PCP: Dr. ___ MD
.
Head trauma - reports concussions from skateboarding
Seizure - denies
HIV status - unknown
 
Social History:
Born/Raised: Born in ___ and raised in ___. Parents 
are
separated currently. He has 1 brother and 2 sisters, not in
contact with sisters.
Relationship status: Single
Support System: ___
Living situation: Living with mother and aunt in ___
Education: Finished ___ grade, never went back 
Access to weapons: Denies 
Spirituality: Denies
.
.
 SUBSTANCE USE HISTORY:
 -Caffeine: denies
 -Tobacco: Denies
 -Alcohol: Denies.
 -Marijuana: last use ___
 -Heroin: denies
 -Opiates: Denies
 -Benzos: denies
 -Cocaine: Denies
 -Amphetamines/speed:
 -LSD/PCP: denies
 -___: denies
 -Other Drugs: Denies
.
.
 FORENSIC HISTORY:
 -Arrests: Denies
 -Convictions and jail terms: Denies
 -Current status (pending charges, probation, parole): Denies

 
Family History:
Psychiatric Diagnoses: Sister: ___, and PTSD; father has 
been admitted for depression
.
Substance Use Disorder: father used alcohol
Completed Suicide & Suicide Attempts: Sister tried to hang
herself in ___. 

 
Physical Exam:
 EXAM:

General:
 -HEENT: Normocephalic, atraumatic.  Dry mucous membranes, 
oropharynx clear, supple neck. Poor dentition.  No scleral 
icterus. No LAD. R anterior neck ligature marking c/w hanging 
attempt but no gross swelling or TTP noted.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ in b/l UE.
 -Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted apart from R anterior neck 
(noted above). 

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all 
distributions
 ---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: not tested
 -Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  
Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: MOYb with 0 errors
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 min
 -Fund of knowledge: Consistent with education; intact to last 3 
presidents
 -Calculations: $2.25 = 10 quarters (incorrect)
 -Abstraction: Interprets "don't judge a book by its cover" as 
"things on the outside aren't necessarily what they are on the 
inside."
 -Visuospatial: Not assessed
 -Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
 -Appearance: ___, long disheveled hair, appearing stated age, 
wearing jeans and tshirt, in no apparent distress.
 -Behavior: Sitting up, appropriate eye contact, no psychomotor 
agitation or retardation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "positive, happy, confident"
 -Affect: Mood-congruent,reactive
 -Speech: Normal rate, volume, and tone and prosody
 -Thought process: Linear, coherent, goal-oriented, no loose 
associations
 -Thought Content:
 ---Safety: Currently denies SI w/ intent or plan; denies HI, 
intent or plan.
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current 
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
 -Insight: fair
 -Judgment: fair

 
Pertinent Results:
Utox negative for urine benzos, barbs, opiates, cocaine, 
amphetamine, methadone 

___ 12:03AM   GLUCOSE-88 UREA N-12 CREAT-0.8 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
 

___ 12:03AM   NEUTS-58.8 ___ MONOS-10.7 EOS-1.8 
BASOS-1.0 IM ___ AbsNeut-3.95 AbsLymp-1.84 AbsMono-0.72 
AbsEos-0.12 AbsBaso-0.07

___ 12:03AM   PLT COUNT-222

Cholest163
Triglyc51
HDL59
CHOL/HD 2.8
LDLcalc 941

Hba1c 4.6
Vit B12 723
TSH 1.3

___ 10:15AM BLOOD WBC-6.6 RBC-4.84 Hgb-15.7 Hct-45.0 MCV-93 
MCH-32.4* MCHC-34.9 RDW-11.7 RDWSD-39.7 Plt ___
___ 12:03AM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-141 
K-3.8 Cl-102 HCO3-24 AnGap-15
___ 10:15AM BLOOD ALT-47* AST-26 AlkPhos-63 TotBili-0.3
___ 07:00AM BLOOD VitB12-723 Folate-19
___ 07:00AM BLOOD %HbA1c-4.6 eAG-85
___ 07:00AM BLOOD Triglyc-51 HDL-59 CHOL/HD-2.8 LDLcalc-94
___ 07:00AM BLOOD TSH-1.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11)on ___. Patient signed a 3 day 
notice on ___ but subsequently rescinded notice on ___. 
Patient was also placed on 15 minute checks status on admission 
and remained on that level of observation throughout while being 
unit restricted. Per SAFE-T assessment patient was initially 
deemed to be high risk, given retraction of suicidal statements, 
improvement in mood, motivation, and establishment of outpatient 
supports, patient was eventually determined to be moderate risk 
of engaging in self harm. 
.
2. PSYCHIATRIC:
#) Unspecified Depressive Disorder
#) Unspecified Anxiety Disorder 
#) Obsessive Compulsive Disorder 
#) Post Traumatic Stress Disorder 
#) Borderline Personality Traits 
. 
___ is a ___ yo male w/ hx OCD and depression on 
Prozac 60mg qd, who was brought in by ambulance s/p hanging 
attempt (second in lifetime) witnessed by mother in the setting 
of desperation following discharge the day prior from inpatient 
admission to ___. Pt has had ~5 admissions for 
depression and OCD in the last 3 months and has suffered from 
rapid decompensation within ___ days post discharge. Upon 
presentation to the ED, patient was evaluated following 
attempted hanging (minor ligature marks noted on neck), with 
negative CTA neck, no notable metabolic abnormalities, and no 
further signs of major traumatic injury. Patient was 
subsequently admitted to inpatient psychiatry for further 
treatment.  Patient upon initial evaluation reported difficulty 
with coping with return to his home following discharge from 
prior inpatient admissions. This is secondary to multiple 
reminders of trauma at home (secondary to his father who he 
described as sexually abusive towards his sister) and 
ego-dystonic OCD symptoms with concerns for hygiene/ 
cleanliness. 

On initial interview, patient endorsed depressive symptoms in 
the setting of significant worsening of obsessions and 
compulsions since ___, when his father left home for an 
inpatient admission at ___ due to worsening depression after 
the family found out he was abusing pt's older sister. OCD 
symptoms were reportedly exacerbated by returning from inpatient 
hospitalization to home which is "full of trauma 
triggers...[including] filthy bathrooms, the ceiling caving in, 
bugs....we have only 3 towels". Patient reported pan positive 
depressive symptoms including poor sense of self worth, 
ambivalence regarding future career goals, and dissatisfaction 
with his self isolative behavior/agoraphobic tendencies. Patient 
endorsed current passive suicidal thoughts that appear chronic 
in nature, stated that he felt safe on the unit, and was able to 
contract for safety. Initial Mental  status exam was significant 
for disheveled appearance, euthymic/reactive affect, with 
"depressed mood", and normal response latency with appropriate 
spontaneous elaboration in speech. 
.

Therapeutically, patient was very involved in individual, group, 
and milieu therapy. He was also continued on his home Prozac 
60mg QD. He was started on olanzapine 2.5mg QHS given his 
refractory anxiety and OCD symptoms on prozac alone. He also 
received Ramelteon 8mg qHS for sleep as a substitute for his 
home melatonin 3mg qHS. However patient reports excessive 
daytime sedation and feeling "slowed", so dose was subsequently 
decreased to 1.25 mg QHS. 
.
During subsequent interviews throughout his hospitalization, pt 
endorsed improvement in depressive symptoms and anxiety, 
acknowledging his progress and shift in mindset from 
overwhelmingly melancholic/pessimistic to more optimistic and 
future oriented. Patient expressed interest in starting a day 
program upon discharge in addition to ___ groups and involvement 
in other meaningful activities during the day. Patient's goal 
was to eventually feel comfortable enough to make new friends by 
participating in activities that he typically enjoys, which can 
provide him with the motivation and impetus to move forward with 
his life to eventually pursue a career. He additionally during 
this hospitalization looked at multiple websites and jobcorp to 
help initiate his job search. Patient was able to acknowledge 
the challenges awaiting for him at home upon discharge, 
including financial challenges (mother and aunt are on SSDI), 
tenuous housing (impending foreclosure), and limited access to 
transportation which poses concern for ability to attend a 
partial hospitalization program upon discharge.  Patient prior 
to discharge denied any active suicidal ideation, intent or 
plan, endorsed an intact sense of self worth, and reported 
significant improvement in anxiety symptoms. Prior to discharge 
mental status was significant for calm and cooperative behavior, 
euthymic/reactive affect, good eye contact, and normal response 
latency with appropriate spontaneous elaboration in speech. 
.
Diagnostically, presentation was concerning for an unspecified 
depressive disorder vs. MDD.  However, patient's tendency to 
externalize symptoms, with little motivation or sense of agency 
over the course of his treatment, dichotomous thinking, and 
patient's impaired distress tolerance were concerning for 
character pathology. Upon completion of ___, patient scored 
highly on borderline traits, which patient feels are reflective 
of his sx. Patient additionally has endorsed chronic feelings of 
emptiness, loneliness, and agoraphobia. Mr. ___ expresses 
that his OCD sx are additionally egodystonic in nature and 
endorses chronic anxiety which is concerning for an unspecified 
anxiety disorder.

Mr. ___ was very open discussing his diagnosis. He was receptive 
to treatment recommendations including engaging into skills 
oriented therapy approaches.  
.
On the discharge day, patient states that his mood is improved, 
stating that he feels "positive, happy, and confident about 
leaving the hospital." He states that he feels really ready to 
go, which he did not feel after his prior hospitalizations. He 
states that he now has coping skills and knows that bad feelings 
may come and he has the skills to deal with them. He knows that 
he can talk to his family, providers, or come to the ER if he 
has thoughts of hurting himself. He denies any SI currently. He 
also talked about appropriate steps in case of emergency. He was 
willing to continue Zyprexa in very low dose (1.25mg po qHS), He 
would like to continue with outpatient treatment.
.
3. SUBSTANCE USE DISORDERS:
#) Patient denies any substance use.
.
4. MEDICAL
#) Medical workup has been benign. Patient has had asymptomatic 
bradycardia likely ___ young age and physical fitness.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. He actively participated in 
therapy groups. He has been very visible and participatory in 
the milieu.
.
#) INTERVENTIONS
- Medications: Olanzapine 1.25 mg QHS, Prozac 60mg po qAM (as 
before).
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Pt to attend ___ 
Partial Hospital Program partial day program.
- Behavioral Interventions: encouraged coping and DBT skills 
through group and individual therapy
- Guardianships: None 
.
Olanzapine 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
.
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon recent suicide 
attempt by hanging and presence of continued suicidal ideation. 
His static factors include history of prior suicide attempt, 
history of abuse, chronic mental illness, recent discharge from 
an inpatient psychiatric unit, male gender, Caucasian race, age, 
and the presence of a concurrent personality disorder. The 
modifiable risk factors were also addressed at that time, and at 
the time of discharge patient no longer had suicidal ideation, 
his feelings of hopelessness had improved, and he had improved 
engagement with his treatment.  He is also being discharged with 
many protective factors including a future-oriented viewpoint, 
intact sense of self worth, improved coping skills, lack of 
suicidal ideation, lack of history of substance use disorder, 
and sense of responsibility to his mother.  Overall, the patient 
is not at an acutely elevated risk of self-harm nor danger to 
others due to acutely decompensated psychiatric illness. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY 
2. melatonin 3 mg oral QHS:PRN for sleep 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO QHS:PRN sleep  
RX *hydroxyzine HCl 25 mg 1 tablet by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  OLANZapine 1.25 mg PO QHS mood disorder 
RX *olanzapine 2.5 mg 0.5 (One half) tablet(s) by mouth at 
bedtime Disp #*8 Tablet Refills:*0 
3.  FLUoxetine 60 mg PO DAILY 
RX *fluoxetine 60 mg 1 tablet by mouth once a day Disp #*14 
Tablet Refills:*0 
4.  melatonin 3 mg oral QHS:PRN for sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder
Unspecified anxiety disorder 
Obsessive Compulsive Disorder
Post Traumatic Stress Disorder
Borderline traits 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

On interview on day of discharge, patient states 'I feel 
confident and ready to go home.' He states that this feels 
different than his prior hospitalizations. He states that he 
feels more ready that after prior hospitalizations. He states 
that now he feels like he has enough knowledge and coping skills 
to deal with bad feelings when they come up. He knows that he 
can call his providers or come back to the ED if he feels unsafe 
or like he may hurt himself. He rates his anxiety as a ___ 
which is much improved from prior and states that he feels 
hopeful and excited for the future.

 
Discharge Instructions:
You were admitted to ___ Inpatient Psychiatric Unit for 
depression and a suicide attempt.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___